US04894366
To a solution of the FR-900506 substance (9.7 mg) in dichloromethane (0.2 ml) and pyridine (0.1 ml) was added benzoyl chloride (50 μl ) at room temperature, and the mixture was stirred at room temperature for 2 hours. The solvent was removed from the reaction mixture under reduced pressure to give a crude oil. This oil was purified on silica gel thin layer chromatography (developing solvent: diethyl ether and hexane, 2:1 v/v) to afford 17-allyl-12-[2-(4-benzoyloxy-3-methoxycyclohexyl)-1-methylvinyl]-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (8.0 mg).

reactant | FR-900506 | C[C@@H]1C[C@@H]([C@@H]2[C@H](C[C@H]([C@@](O2)(C(=O)C(=O)N3CCCC[C@H]3C(=O)O[C@@H]([C@@H]([C@H](CC(=O)[C@@H](/C=C(/C1)\C)CC=C)O)C)/C(=C/[C@@H]4CC[C@H]([C@@H](C4)OC)O)/C)O)C)OC)OC | C44H69NO12
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 50 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 0.2 ml | ClCCl | CH2Cl2
product | 17-allyl-12-[2-(4-benzoyloxy-3-methoxycyclohexyl)-1-methylvinyl]-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 8.0 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC(C2=CC=CC=C2)=O)OC)C)C)O)=O | C51H73NO13
